US04665206
Hydroxylamine hydrochloride (5.3 g) was dissolved in warm ethanol (100 ml). The solution was stirred under an atmosphere of nitrogen and treated with a warm solution of potassium hydroxide (6.4 g) in ethanol (50 ml). After 10 min. a solution of 5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester (10 g) in ethanol (250 ml) was added and the resultant mixture was allowed to stand at room temperature for 72 hours. The resultant suspension was filtered to remove the precipitated potassium chloride and the filtrate was evaporated to dryness. The resultant yellow residue was dissolved in water (250 ml), filtered and the filtrate was acidified with 5M hydrochloric acid. The precipitated product was filtered and dried at 65° C. under vacuum to give N-hydroxy-5,6-dimethoxy-benzo[b]thiophene-2-carboxamide (8.3 g). A portion crystallised from acetone had a melting point: 179°-180° C.

reactant | Hydroxylamine hydrochloride | 5.3 g | Cl.NO
reactant | potassium hydroxide | 6.4 g | [OH-].[K+]
reactant | 5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C(=C2)OC)OC | C13H14O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-hydroxy-5,6-dimethoxy-benzo[b]thiophene-2-carboxamide | 8.3 g | ONC(=O)C1=CC2=C(S1)C=C(C(=C2)OC)OC | C11H11NO4S
